US07696195B2
6a) 3,4-dihydroxy-5-methyl-benzoic acid
Under a nitrogen atmosphere 50.0 g (0.25 mol) 3,4-dimethoxy-5-methyl-benzoic acid and 170 g pyridine-hydrochloride were stirred for 2 h at a bath temperature of 160° C. The reaction mixture was poured onto 1 L citric acid solution and extracted with 1 L EtOAc. The organic phase was washed with 1 L water, dried and evaporated down i.vac.

reactant | 3,4-dimethoxy-5-methyl-benzoic acid | 0.25 mol, 50.0 g | COC=1C=C(C(=O)O)C=C(C1OC)C | C10H12O4
reactant | pyridine-hydrochloride | 170 g | Cl.N1=CC=CC=C1
reactant | citric acid | 1 L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 3,4-dihydroxy-5-methyl-benzoic acid | OC=1C=C(C(=O)O)C=C(C1O)C | C8H8O4
